US20010020310A1
36.85 g of 2,2,6,6-tetramethyl-3,5-heptanedione, 200 cc of acetic acid and 32.91 g of 4-nitro-2H-pyrazol-3-ylamine hydrochloride (prepared in accordance with H. Dorn and H. Dilcher, Liebigs Ann. Chem., 707, 141, 1967) were introduced into a 500 ml three-necked flask fitted with a condenser, a thermometer and a magnetic bar. The mixture was refluxed for 8.5 hours. The solution was poured, hot, onto ice. The yellow solid which precipitated was filtered off. It was recrystallized from an acetic acid/water mixture. Drying under vacuum and over phosphoric anhydride yielded 25.4 g of 5,7-di-tert-butyl-3-nitropyrazolo[1,5-a]pyrimidine (yield=46%).

reactant | 2,2,6,6-tetramethyl-3,5-heptanedione | 36.85 g | CC(C)(C(CC(C(C)(C)C)=O)=O)C | C11H20O2
reactant | 4-nitro-2H-pyrazol-3-ylamine hydrochloride | 32.91 g | Cl.[N+](=O)([O-])C1=C(NN=C1)N
solvent | acetic acid | 200 cc | C(C)(=O)O | C2H4O2
product | 5,7-di-tert-butyl-3-nitropyrazolo[1,5-a]pyrimidine | 25.4 g, yield=46% | C(C)(C)(C)C1=NC=2N(C(=C1)C(C)(C)C)N=CC2[N+](=O)[O-] | C14H20N4O2
